US08106064B2
2-Fluoro-4,6-dimethyl-pyridine (4.25 g, 34 mmol) was refluxed with N-chlorosuccinimide (4.99 g, 37.4 mmol) and benzoyl peroxide (822 mg, 3.4 mmol) in carbon tetrachloride (70 ml). After 3.5 hr., the mixture was cooled to room temperature and filtered. The filtrate was evaporated in vacuo and the residue was purified by silica gel column chromatography (eluent, ether:hexane (1:30)) to afford 740 mg (13%) of 4-chloromethyl-2-fluoro-6-methyl-pyridine as a yellow oil. 1H NMR (200 MHz, CDCl3) δ 2.51 (3H, s), 4.51 (2H, s), 6.77 (1H, s), 7.05 (1H, s).

reactant | 2-Fluoro-4,6-dimethyl-pyridine | 34 mmol, 4.25 g | FC1=NC(=CC(=C1)C)C | C7H8FN
reactant | N-chlorosuccinimide | 37.4 mmol, 4.99 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | benzoyl peroxide | 3.4 mmol, 822 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 70 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-chloromethyl-2-fluoro-6-methyl-pyridine | 740 mg, 13% | ClCC1=CC(=NC(=C1)C)F | C7H7ClFN
